US05525711
a) 6-chloro-2, 4-diamino-pyrimidine (6)
To 500 mL of freshly distilled POCl3 at a temperature of 80°-90° C. is added 100 g of 2,4-diamino-6-oxo-dihydropyrimidine (Aldrich, Milwaukee, Wis., USA). The mixture is distilled under reflux until, after approximately 2 hours, the mixture has completely dissolved. The residual POCl3 is suctioned off using vacuum and the remaining syrup is dripped slowly onto ice. The highly acidic solution is carefully neutralized by cooling it using concentrated sodium aluminate solution, and in the final stage with solid sodium carbonate. When completed the total volume of solution is approximately 1800 mL. Upon cooling a yellowish precipitate is separated out which is suctioned off and dried in a vacuum desiccator. The end product which contains mostly non-organic salts is boiled three times, each time with 1 liter of acetone to which active charcoal is added. The extracts are cooled and the resulting clear precipitate is collected. Evaporation of the filtrates yields an additional fraction.

reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,4-diamino-6-oxo-dihydropyrimidine | 100 g | NC1NC(C=C(N1)N)=O | C4H8N4O
product | 6-chloro-2, 4-diamino-pyrimidine | ClC1=CC(=NC(=N1)N)N | C4H5ClN4
